US07825256B2
[[3-(Benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-propyl]-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetic acid (70 mg, 140 μmol) was dissolved in TFA/DCM (1:1, 2 mL) and stirred at room temperature for 30 min. SiO2 (3 g) was added and the solvent was evaporated to afford a white slurry. Purification was achieved using column chromatography (CH2Cl2 to 4:1 CH2Cl2/MeOH) to afford 58 mg (99%) of [{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetic acid as a white solid. [M+H]+ 416.92; 1H NMR (400 MHz, d6-DMSO) δ 9.05 (s, 1H), 8.79 (br s, 1H), 8.00 (s, 1H), 7.49 (s, 1H), 7.06 (s, 1H), 6.97 (m, 2H), 6.06 (s, 2H), 4.39 (br s, 2H), 4.26 (s, 2H), 3.66 (m, 2H), 3.00 (m, 2H), 2.01 (m, 2H).

reactant | [[3-(Benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-propyl]-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetic acid | 140 μmol, 70 mg | O1COC2=C1C=CC(=C2)CN(CCCN(C2=NC(=NS2)N2C=NC=C2)CC(=O)O)C(=O)OC(C)(C)C | C23H28N6O6S
solvent | TFA DCM | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | [{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetic acid | 58 mg, 99% | O1COC2=C1C=CC(=C2)CNCCCN(C2=NC(=NS2)N2C=NC=C2)CC(=O)O | C18H20N6O4S
